US08134015B2
Subsequently, crude 2-(3,4-dimethoxy-benzoylamino)-5-hydroxy-methyl-thiophene-3-carboxylic acid methyl ester (crude 35 mg) synthesized by the above process was dissolved in anhydrous methylene chloride (5 ml). Pyridine (24 mg: dissolved in 1 ml of anhydrous methylene chloride) and acetic anhydride (31 mg: dissolved in 1 ml of anhydrous methylene chloride) were added dropwise to the solution at room temperature, and the mixture was stirred at that temperature for 12 hr. After the completion of the reaction, distilled water was added thereto at room temperature, and the mixture was subjected to separatory extraction with chloroform. The organic layer was washed with saturated brine, was dried over sodium sulfate, and was then concentrated under the reduced pressure. The residue was purified by column chromatography eluted with a chloroform-methanol system to give 5-acetoxymethyl-2-(3,4-dimethoxy-benzoylamino)-thiophene-3-carboxylic acid methyl ester as a useful intermediate (26 mg, 3 steps, yield 67%).

reactant | 2-(3,4-dimethoxy-benzoylamino)-5-hydroxy-methyl-thiophene-3-carboxylic acid methyl ester | COC(=O)C1=C(SC(=C1C)O)NC(C1=CC(=C(C=C1)OC)OC)=O | C16H17NO6S
reactant | Pyridine | 1 ml, 24 mg | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 1 ml, 31 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 5-acetoxymethyl-2-(3,4-dimethoxy-benzoylamino)-thiophene-3-carboxylic acid methyl ester | yield 67% | COC(=O)C1=C(SC(=C1)COC(C)=O)NC(C1=CC(=C(C=C1)OC)OC)=O | C18H19NO7S
